US07566735B2
N-methyl-N-({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)-2-propenamide
A stirred solution of N-({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)-2-propenamide (241 mg, 0.69 mmol) in dimethylformamide (5 ml) under argon was treated with sodium hydride (60% suspension in mineral oil, 28 mg, 0.7 mmol). The reaction mixture was stirred for 5 minutes then methyl iodide (0.05 ml) was added and the reaction mixture stirred for a further 1 hour. Reaction mixture was then quenched with 3 drops of water and 5 ml of 1M ammonia in methanol. Excess ammonia and methanol were removed by rotary evaporation. Reaction mixture was separated between ethyl acetate and brine. Organic layer was retained, dried over sodium sulphate and the solvent removed by rotary evaporation. Sample was purified by 5 g pre-pack silica column eluted with 50% ethyl acetate/petroleum ether. Relevant fractions were combined and the solvent removed by rotary evaporation to give the title compound as a yellow oil (66 mg, 26%).

reactant | N-({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)-2-propenamide | 0.69 mmol, 241 mg | FC(C1=NN(C=2CCCCC12)C1=CC=C(C=C1)CNC(C=C)=O)(F)F | C18H18F3N3O
reactant | sodium hydride | 0.7 mmol, 28 mg | [H-].[Na+]
reactant | methyl iodide | 0.05 ml | CI | CH3I
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-methyl-N-({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)-2-propenamide | 66 mg, 26% | CN(C(C=C)=O)CC1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F | C19H20F3N3O
